US05969140
A mixture of 1-(2-hydrazino-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (2.0 g), phthalic anhydride (0.92 g) and ethylene glycol (10 ml) is heated with stirring at 130° C. for two hours. The mixture is cooled to room temperature, and thereto are added methylene chloride and water. The methylene chloride layer is separated, washed, dried, concentrated under reduced pressure to remove the solvent, and the residue is crystallized from ethanol to give 1-[2-{4-(hydroxy)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (1.68 g, yield; 61%), which is listed in Table 10.

reactant | 1-(2-hydrazino-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 2.0 g | N(N)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C19H21N3O4
reactant | phthalic anhydride | 0.92 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | ethylene glycol | 10 ml | C(CO)O | C2H6O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-[2-{4-(hydroxy)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 1.68 g, yield; 61% | OC1=NN(C(C2=CC=CC=C12)=O)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C27H23N3O6
